US04024145
21 G. of 4-chloro-3,5-dimethoxy-α -cyano-hydrocinnamaldehyde dimethyl acetal were heated to reflux for 1.5 hours with 140 ml. of a 1N methanolic guanidine solution. The solvent was then removed by distillation on an oil bath at 160° C. and the residue heated for 15-20 minutes at this temperature until completely solidified to a crystalline mass. The mass was slurried with 80-100 ml. of water and removed by filtration under suction, whereby there was obtained 2,4-diamino-5-(4-chloro-3,5-dimethoxybenzyl)-pyrimidine of melting point 218° C.

reactant | 4-chloro-3,5-dimethoxy-α -cyano-hydrocinnamaldehyde dimethyl acetal | COC(C(CC1=CC(=C(C(=C1)OC)Cl)OC)C#N)OC | C14H18ClNO4
reactant | guanidine | 1N | NC(=N)N | CH5N3
product | 2,4-diamino-5-(4-chloro-3,5-dimethoxybenzyl)-pyrimidine | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OC)Cl)OC | C13H15ClN4O2
